US06825191B2
Synthesis of [2-(4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepin-8-yl)ethyl]phosphonic acid
40 mg (0.051 mmol) of diethyl [2-(4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)-benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl)ethyl]phosphonate was dissolved in 10 ml of acetonitrile. 0.15 ml of trimethylsilyl bromide was added to the obtained solution, and they were stirred overnight. The solvent was evaporated, and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | diethyl [2-(4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)-benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl)ethyl]phosphonate | 0.051 mmol, 40 mg | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)CCP(OCC)(OCC)=O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C34H37ClN3O6P
reactant | trimethylsilyl bromide | 0.15 ml | C[Si](C)(C)Br | C3H9BrSi
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | [2-(4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepin-8-yl)ethyl]phosphonic acid | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)CCP(O)(O)=O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C30H29ClN3O6P
